US08487108B2
A solution of (R)-tert-butyl 3-((2-amino-2-oxoethoxy)(3-chloro-2-fluorophenyl)methyl)piperidine-1-carboxylate (100 mg, 0.25 mmol) in 20% TFA/CH2Cl2 (5 mL) was stirred at 0° C. for 30 min. The solvent was neutralized by adding saturated NaHCO3, extracted three times with CH2Cl2 and dried over Na2SO4. Evaporation of the solvent gave (R)-2-((3-chloro-2-fluorophenyl)(piperidin-3-yl)methoxy)acetamide (72 mg, 0.24 mmol, 98%). MS (E/Z): 301 (M+H+)

reactant | (R)-tert-butyl 3-((2-amino-2-oxoethoxy)(3-chloro-2-fluorophenyl)methyl)piperidine-1-carboxylate | 0.25 mmol, 100 mg | NC(COC([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)Cl)F)=O | C19H26ClFN2O4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | TFA CH2Cl2 | 5 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (R)-2-((3-chloro-2-fluorophenyl)(piperidin-3-yl)methoxy)acetamide | 0.24 mmol, 72 mg, 98% | ClC=1C(=C(C=CC1)[C@H](OCC(=O)N)C1CNCCC1)F | C14H18ClFN2O2
